US05843963
To a solution of 2-(4-methoxyphenyl)-3-[N-(4-hydroxyphenyl)acetamido]-6-methoxy-benzo[b]thiophene (1.31 g, 3.13 mmol) and Cs2CO3 (4.10 g, 12.50 mmol) in 15 mL of anhydrous DMF was added 2-chlorethylpiperidine hydrochloride (1.15 g, 6.26 mmol). The resulting mixture was stirred vigorously at room temperature for 5 h. The reaction mixture was diluted with 200 mL of H2O, and then extracted several times with EtOAc. The combined organic was then washed with H2O several times and then dried (Na2SO4), Concentration in vacuo provided an oil. Chromatography (1% CH3OH/CHCl3, SiO2) provided 1.49 g (90%) of 2-(4-methoxyphenyl-3-[N-[4-[2-(1-piperidinyl)ethoxy]phenyl]acetamido]-6-methoxybenzo[b]thiophene as an amber oil. 1H NMR (DMSO-d6) δ (doubling due to amide rotamers) 7.66-6.70 (m, 11 H), 3.93 (m, 2H) 3.78 and 3.58 (s, 6H), 2.8-2.30 (m, 6H), 2.01 and 1.78 (s, 3H), 1.52-1.11 (m, 6H). FD mass spec: 530. Anal. Calcd. for C31H34N2O4S: C, 70.16; H, 6.46; N, 5.28. Found: C, 70.33; H, 6.34; N, 5.35.

reactant | 2-(4-methoxyphenyl)-3-[N-(4-hydroxyphenyl)acetamido]-6-methoxy-benzo[b]thiophene | 3.13 mmol, 1.31 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)N(C(C)=O)C2=CC=C(C=C2)O | C24H21NO4S
reactant | Cs2CO3 | 12.50 mmol, 4.10 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-chlorethylpiperidine hydrochloride | 6.26 mmol, 1.15 g | Cl.ClCCN1CCCCC1
reactant | CH3OH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | H2O | 200 mL | O | H2O
product | 4-methoxyphenyl-3-[N-[4-[2-(1-piperidinyl)ethoxy]phenyl]acetamido]-6-methoxybenzo[b]thiophene | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)N(C(C)=O)C2=CC=C(C=C2)OCCN2CCCCC2 | C31H34N2O4S
